US05849911
45a) 4-(Thiophen-2-yl)-benzaldehyde
3.7 g (20 mmol) of 4-bromobenzaldehyde, 9.5 ml (120 mmol) of thiophene, 2.94 g (30 mmol) of potassium acetate and 1.16 g (1 mmol) of tetrakis(triphenylphosphine)-palladium (Fluka, Buchs, Switzerland) in 50 ml of dimethylacetamide are placed in a pressure reactor and stirred at 150° C. under nitrogen for 16 hours. The reaction mixture is concentrated by evaporation; the residue is taken up in water and extracted three times with methylene chloride. After removal of the solvent, the residue is chromatographed on silica gel (hexane/ethyl acetate 4:1). The title compound is obtained in the form of a yellow solid. TLC: Rt 0.36 (hexane/ethyl acetate 4:1). HPLC20-100 : tRet =15.26. 1H-NMR (CD3OD; 200 MHz): 9.98/s (1H); 7.93 and 7.85/each d, J=9.5 (2×2H); 7.60/d, J=2.5 (1H); 7.52/d, J=5 (1H); 7.17/d×d, J=2.5 and 5 (1H).

reactant | 4-bromobenzaldehyde | 20 mmol, 3.7 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | thiophene | 120 mmol, 9.5 ml | S1C=CC=C1 | C4H4S
reactant | potassium acetate | 30 mmol, 2.94 g | C(C)(=O)[O-].[K+]
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)-palladium | 1 mmol, 1.16 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(Thiophen-2-yl)-benzaldehyde | S1C(=CC=C1)C1=CC=C(C=O)C=C1 | C11H8OS
